US04581452
A solution of DCC (206 mg; 1.0 mmole) in DMF (0.5 ml) was added dropwise to a solution of 1-(2-hydroxycarbonyl-3,3,3-trifluoropropyl)-3-phenylurea (276 mg; 1.0 mmole) obtained above in DMF (1 ml), and the mixture was stirred for 1 hour. The precipitated solid was filtered off, and washed with ethyl acetate. The solvents were evaporated under reduced pressure from the combined filtrates. The residue was purified by a column chromatography on silica gel (ethyl acetate:chloroform=1:3) to give 120 mg (yield: 47%) of 3-phenyl-5-trifluoromethyl-5,6-dihydrouracil. m.p.: 215°-216° C.

reactant | DCC | 1.0 mmole, 206 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-(2-hydroxycarbonyl-3,3,3-trifluoropropyl)-3-phenylurea | 1.0 mmole, 276 mg | OC(=O)C(CNC(=O)NC1=CC=CC=C1)C(F)(F)F | C11H11F3N2O3
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-phenyl-5-trifluoromethyl-5,6-dihydrouracil | 120 mg, yield: 47% | C1(=CC=CC=C1)N1C(NCC(C1=O)C(F)(F)F)=O | C11H9F3N2O2
